US09062070B2
Step H: methyl 3-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[c]pyridine-7-carboxylate
A mixture of methyl 3-amino-6,7-dihydro-5H-cyclopenta[c]pyridine-7-carboxylate (365 mg, 1.90 mmol), triethyl orthoformate (451 mg, 3.04 mmol), and sodium azide (185 mg, 2.85 mmol) in acetic acid (8 mL) was maintained in an oil bath heated at 80° C. for 3 h. After cooling to room temperature, the mixture was diluted with water and ethyl acetate and the layers separated. The aqueous was extracted with ethyl acetate (2×) and the combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated. Purification of the resulting residue (8->80% EtOAc/hexanes eluent) provided the title compound. LC/MS (M+1)+=193.0.

reactant | methyl 3-amino-6,7-dihydro-5H-cyclopenta[c]pyridine-7-carboxylate | 1.90 mmol, 365 mg | NC1=CC2=C(C=N1)C(CC2)C(=O)OC | C10H12N2O2
reactant | triethyl orthoformate | 3.04 mmol, 451 mg | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium azide | 2.85 mmol, 185 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[c]pyridine-7-carboxylate | N1(N=NN=C1)C1=CC2=C(C=N1)C(CC2)C(=O)OC | C11H11N5O2
